US08242125B2
94-A. (±)-5-[6-(Pyrrolidin-3-ylaminomethyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
(±)-3-({6-[1-(3-Trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl}-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester (20 mg, 3.30 mmol) is stirred in a solution of DCM (2 mL) and TFA (0.5 mL) overnight. After removal of solvents, the residue is quenched with saturated aqueous sodium bicarbonate. The mixture is then extracted with EtOAc (3×) and the combined organic layers are washed with water, brine, dried with Na2SO4, filtered, and condensed. The residue is purified by FCC (0-10% 2 M NH3 in MeOH/DCM) to provide the title compound. MS (ESI) m/z 496.8 (M+1); 1H NMR (400 MHz, MeOD) δ ppm 8.65 (s, 1H), 8.36 (d, J=8.84 Hz, 1H), 8.06 (s, 1H), 7.95 (d, J=3.54 Hz, 1H), 7.88 (s, 1H), 7.57 (t, J=7.83 Hz, 1H), 7.44 (d, J=7.83 Hz, 1H), 7.42 (d, J=2.27 Hz, 1H), 7.03-7.13 (m, 2H), 6.75 (d, J=3.79 Hz, 1H), 3.80-3.85 (m, 2H), 2.81-3.02 (m, 3H), 2.52-2.75 (m, 2H), 2.19-2.35 (m, 2H).

reactant | (±)-3-({6-[1-(3-Trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl}-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 3.30 mmol, 20 mg | C(C)(C)(C)OC(=O)N1CC(CC1)NCC1=NC=NC(=C1)OC=1C=C2C=CN(C2=CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O | C30H31F3N6O4
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (±)-5-[6-(Pyrrolidin-3-ylaminomethyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)CNC1CNCC1)(F)F | C25H23F3N6O2
